US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(3,3-dimethylpiperazin-1-yl)benzamide
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-fluorobenzamide (0.1 g, 0.27 mmol) and 2,2-dimethylpiperazine (0.124 g, 1.04 mmol) were stirred at 60° C. for 20 mins. Potassium carbonate (0.033 ml, 0.54 mmol) and DMSO (1 ml) were added and the reaction stirred at 120° C. in a sealed tube for 16 days. The reaction mixture was cooled and evaporated. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (6.00 mg, 2.000%) as a colourless gum.

reactant | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-fluorobenzamide | 0.27 mmol, 0.1 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)F)=O | C20H20FN3O3
reactant | 2,2-dimethylpiperazine | 1.04 mmol, 0.124 g | CC1(NCCNC1)C | C6H14N2
reactant | Potassium carbonate | 0.54 mmol, 0.033 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(3,3-dimethylpiperazin-1-yl)benzamide | 6.00 mg, 2.000% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CC(NCC1)(C)C)=O | C26H33N5O3
